US04394233
Into the same flask as used in Example 1, 236.6 grams (2 moles) of pure diethylcarbonate were added, and then 2.6 moles of chlorine gas were introduced into the flask over a five hour period at a range of 50° C. to 52° C. under the irradiation of ultraviolet rays. When the reaction was completed, the unreacted diethylcarbonate was removed by subjecting it to fractional distillation to yield 131 grams of ethyl α-chloroethyl carbonate. B.P.: 160°-163° C.; Yield: 59.8% to the consumed diethylcarbonate. The data of the IR and the NMR were identified to be the same as those in Example 1.

reactant | diethylcarbonate | 2 moles, 236.6 grams | C(C)OC(OCC)=O | C5H10O3
reactant | chlorine | 2.6 moles | ClCl | Cl2
product | ethyl α-chloroethyl carbonate | 131 grams, Yield: 59.8% | C(OCC)(OC(C)Cl)=O | C5H9ClO3
